US06667320B2
11-Fluoro-1,7-bis-(2-nitro-benzenesulfonyl)-1,4,7-triazacyclotetradecane
Acetic acid (15 ml), saturated with anhydrous hydrogen bromide (gas) was added to [11-fluoro-1,7-bis(2-nitro-benzenesulfonyl)-1,4,7-triaza-cyclotetradec-4-yl]-phosphonic acid diethyl ester (560 mg, 0.77 mmol) contained in round-bottomed flask closed by glass stopper. The resulting mixture was allowed to stir for 18 hours at room temperature and then diethyl ether (50 ml) was added. The white precipitate which formed was allowed to settle to the bottom of the flask and the diethyl ether solution was decanted off. This white solid was re-dissolved in methanol, stirred with K2CO3 (solid) for 30 mins then diluted with 100-ml ethyl acetate, and the solids were removed by filtration. Evaporation of the filtrates gave the title compound (454 mg, 100%) as white foam.

reactant | Acetic acid | 15 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen bromide | Br | BrH
reactant | [11-fluoro-1,7-bis(2-nitro-benzenesulfonyl)-1,4,7-triaza-cyclotetradec-4-yl]-phosphonic acid diethyl ester | 0.77 mmol, 560 mg | C(C)OP(OCC)(=O)N1CCN(CCCC(CCCN(CC1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])F)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C27H39FN5O11PS2
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 11-Fluoro-1,7-bis-(2-nitro-benzenesulfonyl)-1,4,7-triazacyclotetradecane | 454 mg, 100% | FC1CCCN(CCNCCN(CCC1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C23H30FN5O8S2
